US09163021B2
3-bromo-7-fluoro-1-isopropyl-1H-pyrrolo[3,2-c]pyridine
Prepared according to the method described for Preparation 45 using 3-bromo-7-fluoro-1H-pyrrolo[3,2-c]pyridine (Preparation 48), 2-iodopropane and potassium carbonate as base. Purified using silica gel column chromatography eluting with 100% heptanes to 50:50 Heptane:EtOAc to afford the title compound (845 mg, 56%).

reactant | 3-bromo-7-fluoro-1H-pyrrolo[3,2-c]pyridine | BrC1=CNC2=C1C=NC=C2F | C7H4BrFN2
reactant | 2-iodopropane | IC(C)C | C3H7I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-bromo-7-fluoro-1-isopropyl-1H-pyrrolo[3,2-c]pyridine | 845 mg, 56% | BrC1=CN(C2=C1C=NC=C2F)C(C)C | C10H10BrFN2
